US09387200B2
a) 7-Benzyl-3-(4-chloro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester
The title compound was synthesized in analogy to Example 1 from 7-bromo-3-(4-chloro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester and benzylboronic acid: MS (m/z) 425.1 (M+1).

reactant | 7-bromo-3-(4-chloro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)Br)SN=C2C2=CC=C(C=C2)Cl)O | C15H10BrClN2O3S
reactant | benzylboronic acid | C(C1=CC=CC=C1)B(O)O | C7H9BO2
product | 7-Benzyl-3-(4-chloro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)CC1=CC=CC=C1)SN=C2C2=CC=C(C=C2)Cl)O | C22H17ClN2O3S
